US06169107A
A mixture of 0.10 g (0.46 mmol) of ethyl 7-amino-1-methyl-2-indolecarboxylate, 0.12 g (0.50 mmol) of phenylacetaldehyde as 50% isopropanol solution, 0.043 g (0.69 mmol) of sodium cyanogen borohydride and 0.1 ml of acetic acid in 5 ml of acetonitrile was stirred at room temperature for 15 minutes. Thereafter 0.2 ml of acetic acid was added to the reaction mixture. The resulting mixture was allowed to stand at room temperature for 15 hours. After 1N sodium hydroxide solution was added to the reaction mixture, the mixture was extracted three times with diethyl ether. The combined extracts were then washed with 1N potassium hydroxide solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to give 0.045 g (30.5%) of ethyl 1-methyl-7-(2-phenylethylamino)-2-indolecarboxylate.

reactant | ethyl 7-amino-1-methyl-2-indolecarboxylate | 0.46 mmol, 0.10 g | NC=1C=CC=C2C=C(N(C12)C)C(=O)OCC | C12H14N2O2
reactant | phenylacetaldehyde | 0.50 mmol, 0.12 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium cyanogen borohydride | 0.69 mmol, 0.043 g | [BH4-].N#CC#N.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | ethyl 1-methyl-7-(2-phenylethylamino)-2-indolecarboxylate | 0.045 g, 30.5% | CN1C(=CC2=CC=CC(=C12)NCCC1=CC=CC=C1)C(=O)OCC | C20H22N2O2
